US08022062B2
4-(3,3-Dimethyl-but-1-ynyl)-benzonitrile:
Dissolve 4-bromobenzonitrile (3 g, 16.48 mmol) in anhydrous DMF (30 mL) in a sealed tube. Degas the solution, purge with nitrogen and add tris(dibenzylideneacetone)dipalladium(0) (453 mg, 0.49 mmol), copper(I) iodide (188 mg, 0.99 mmol), triphenylphosphine (1.08 g, 4.12 mmol), triethylamine (10 mL) and 3,3-dimethylbutyne (6.1 mL, 49.44 mmol). Heat the mixture at 90° C. overnight. Cool to room temperature, add water and extract the aqueous phase twice with EtOAc. Dry the combined organic extracts over MgSO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (19:1, 9:1) to give the desired intermediate as a solid (2.75 g, 92%).

reactant | 4-bromobenzonitrile | 16.48 mmol, 3 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | triphenylphosphine | 4.12 mmol, 1.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylbutyne | 49.44 mmol, 6.1 mL | CC(C#C)(C)C | C6H10
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.49 mmol, 453 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper(I) iodide | 0.99 mmol, 188 mg | [Cu]I
solvent | water | O | H2O
product | 4-(3,3-Dimethyl-but-1-ynyl)-benzonitrile | 2.75 g, 92% | CC(C#CC1=CC=C(C#N)C=C1)(C)C | C13H13N
